US09340549B2
To a 100 mL round bottom flask charged with 2-(1-hydroxycyclopentyl)-2-phenylacetic acid (3.5 g, 16.13 mmol, 1 eq.) in toluene (70 mL) were added TEA (2.5 eq) and diphenyl phosphoryl azide (2 eq). The resulting mixture was stirred at 120° C. for 12 hours. Reaction progress was monitored by TLC (TLC eluent: 30% EtOAc in hexane). The reaction mixture was cooled and toluene was removed under reduced pressure. The product thus obtained was purified by column chromatography using silica gel and eluting with 10% EtOAc in hexane to afford 4-phenyl-1-oxa-3-azaspiro[4.4]nonan-2-one (2 g, 31%). 1H NMR (300 MHz, CDCl3) δ: 8.06 (s, 1H), 7.28-7.41 (m, 5H), 4.78 (s, 1H), 1.88-2.03 (m, 2H), 1.23-1.70 (m, 5H), 0.97-1.03 (m, 1H). m/z (ESI) 218.3 (M+H)+.

reactant | 2-(1-hydroxycyclopentyl)-2-phenylacetic acid | 16.13 mmol, 3.5 g, 1 eq. | OC1(CCCC1)C(C(=O)O)C1=CC=CC=C1 | C13H16O3
reactant | diphenyl phosphoryl azide | 2 eq | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 4-phenyl-1-oxa-3-azaspiro[4.4]nonan-2-one | 2 g, 31% | C1(=CC=CC=C1)C1NC(OC12CCCC2)=O | C13H15NO2
